US08303935B2
First, 2-bromo-4′-hydroxyacetophenone and 2-amino-5-iodopyridine are dissolved in an inactive solvent such as acetonitrile, and are allowed to react with each other at a reflux temperature for 2 to 6 hours to produce 2-(4′-hydroxyphenyl)-6-iodoimidazo[1,2-a]pyridine hydrobromide salt as white precipitates. The solvent used in this instance may be acetonitrile or another solvent that is usually employed in a similar reaction, for example, methanol and acetone. The reaction temperature may be a temperature allowing refluxing, for example, 110° C. when the solvent is acetonitrile. The amount of the solvent to be used may be an amount sufficient to effect the reaction, however, it should be noted that if the solvent is too much, it will become difficult to obtain precipitates of reaction products. For example, when 2-bromo-4′-hydroxyacetophenone in an amount corresponding to 10 mmol is used for the reaction, the amount of a solvent to be used can be about 40 to 80 mL.

reactant | 2-bromo-4′-hydroxyacetophenone | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
reactant | 2-amino-5-iodopyridine | NC1=NC=C(C=C1)I | C5H5IN2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(4′-hydroxyphenyl)-6-iodoimidazo[1,2-a]pyridine hydrobromide salt | Br.OC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)I)C1 | InChI=1S/C13H9IN2O.BrH/c14-10-3-6-13-15-12(8-16(13)7-10)9-1-4-11(17)5-2-9;/h1-8,17H;1H
